US04962109
A solution of 2,2-dimethyl-1-[2-(1,1-dimethylethyl)pyrimidin-5-yl]propan-1-ol (19.37 g) in thionyl chloride (125 cm3) was heated at the reflux temperature for 30 minutes. After cooling to the ambient temperature, the excess thionyl chloride was removed by evaporation under reduced pressure, and the residue dissolved in dichloromethane and washed with aqueous sodium bicarbonate solution. After drying over anhydrous magnesium sulphate, concentration of the organic solution by evaporation of the solvent under reduced pressure gave 1-chloro-2,2-dimethyl-1-[2-(1,1-dimethylethyl)pyrimidin-5-yl]propane (20.95 g).

reactant | 2,2-dimethyl-1-[2-(1,1-dimethylethyl)pyrimidin-5-yl]propan-1-ol | 19.37 g | CC(C(O)C=1C=NC(=NC1)C(C)(C)C)(C)C | C13H22N2O
reactant | thionyl chloride | 125 cm3 | S(=O)(Cl)Cl | Cl2OS
product | 1-chloro-2,2-dimethyl-1-[2-(1,1-dimethylethyl)pyrimidin-5-yl]propane | 20.95 g | ClC(C(C)(C)C)C=1C=NC(=NC1)C(C)(C)C | C13H21ClN2
